US07544704B2
2-Methoxy-6-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 2-bromo-6-methoxypyridine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 97 mg, 67%) which was obtained as a yellow oil. MS: m/e=291.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-bromo-6-methoxypyridine | BrC1=NC(=CC=C1)OC | C6H6BrNO
product | 2-Methoxy-6-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine | 97 mg, 67% | COC1=NC(=CC=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C18H14N2O2
